Name:  ___              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
fever of unknown origin
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ is a ___ year-old man with PMHx of hypothyroidism 
as well
as recent diagnosis of MG (currently followed by Dr. 
___
and on prednisone 60 and imuran 100mg BID) who presents for
recurrent fevers of unknown origin.  He returned from a recent
trip to ___ on ___ (for a family
death) and felt perfectly normal.  Then on ___ he had
some chills but attributed it to the weather getting colder.  He
stayed awake until about 1am that night to watch the ___ win
the World Series so admits that he didn't get a lot of sleep. 
Then when he woke up on ___ he felt "like I was in a
stupor" and had no appetite.  He continued to feel "not well" 
and
his wife noticed that his hands seemed a little bit shaky.  He
continued to feel unwell during the day, so after calling his
doctors, he went to the Goo Samaritain ED.  There, he was noted
to have a fever to 101.6 and seemed confused.  He was admitted
and had "lots of blood and urine tests" as well as a CXR and CT
abdomen/pelvis, which were all negative for source of infection. 

He was put on tetracycline (or some reports say zosyn) initially
IV and then PO and was discharged four days later on ___,
with plan to continue tetracycline until ___.  Once he got 
home,
he continued to check his temps daily, but again became febrile
at home.  He saw ID as an outpatient at ___ who sent
off babesiosis and Lyme, which are pending. Yesterday he was
afebrile, but today again he spiked fevers, with his temperature
at 6:30am being 97.9, then at 9am was 99.0, increasing to 99.5 
at
1:30pm and 99.7 at 3pm.  He called his outpatient neurologist,
Dr. ___ told him to come to the ED here for 
further
workup. 
In the ED he had basic labs done which showed hyponatremia 
(132),
hyperkalemia (5.4), as well as Cr of 1.4 and lactate of 2.1.  He
had a NCHCT which showed no acute issues and then had numerous
attempts at an LP performed, all unsucessfully, even at the
attending level.  He was admitted to the neurology service for
further workup.
 
On neuro ROS, the pt reports very mild headache as well as a few
months of urinary frequency and a recent mild bilateral hand
tremor, but otherwise denies loss of vision, blurred vision,
diplopia, dysarthria, dysphagia, lightheadedness, vertigo,
tinnitus or hearing difficulty. Denies difficulties producing or
comprehending speech.  Denies focal weakness, numbness,
parasthesiae. Denies difficulty with gait.
 
On general review of systems, the pt reports recent fevers and
chills as well as a mild non-productive cough and some ___ but
not frequent stools but denies night sweats or recent weight 
loss
or gain. Denies cough, shortness of breath.  Denies chest pain 
or
tightness, palpitations.  Denies nausea, vomiting,constipation 
or
abdominal pain.  No recent change in bowel or bladder habits.  
No
dysuria.  Denies arthralgias or myalgias. Denies rash.
 
 
Past Medical History:
1.  Prostate cancer status post prostatectomy in ___ and
radiation therapy x 36 treatments.
2.  Bilateral ___ and hip replacements with good effect on 
joint
pain.
3.  Pseudophakic, both eyes.
4.  Lumbar spinal stenosis, diagnosed approximately ___ years ago
in the setting of pain radiating into both lower extremities,
numbness in his feet, and weakness, with difficulty lifting his
feet off the floor and falls.  Symptoms improved after coccygeal
manipulation.
5.  Cholecystectomy in ___.
6.  Hernia repair.
7.  Obstructive sleep apnea, uses CPAP.
8.  Hypothyroidism
9.  myasthenia ___, diagnosed in ___
10. high blood sugars recently since starting prednisone which
his PCP is debating starting metformin for but hasn't yet

 
Social History:
___
Family History:
Mother:  ___ diagnosed in her ___, improving with
Mestinon, symptoms primarily of ptosis; vitamin B12 deficiency;
possible TIAs.  
Father:  Heart disease.  
Sister:  ___.  
Sister:  ___, dementia, NPH.  
Brother:  ___ and hip replacements.  
Brother:  ___, possible psoriatic arthritis, psoriasis.
Son:  ___ carrier.
 
Physical Exam:
Physical Exam: 
Vitals: 98.2 88 150/80 18 96% 
General: Awake, cooperative, NAD. 
HEENT: NC/AT, no scleral icterus noted, MMM, no lesions noted in
oropharynx 
Neck: Supple, no carotid bruits appreciated. No nuchal rigidity 
Pulmonary: Lungs CTA bilaterally without R/R/W 
Cardiac: RRR, nl. S1S2, no M/R/G noted 
Abdomen: soft, NT/ND, normoactive bowel sounds, no masses or
organomegaly noted. 
Extremities: No C/C/E bilaterally, 2+ radial, DP pulses
bilaterally. 
Skin: no rashes or lesions noted.
 
Neurologic: 
-Mental Status: Alert, oriented x 3.  Able to relate history
without difficulty.  Attentive, able to name ___ backward 
without
difficulty.  Language is fluent with intact repetition and
comprehension.  Normal prosody.  There were no paraphasic 
errors.
Pt. was able to name both high and low frequency objects.  Able
to read without difficulty.  Speech was not dysarthric. Able to
follow both midline and appendicular commands. Pt. was able to
register 3 objects and recall ___ at 5 minutes.  The pt. had 
good
knowledge of current events.  There was no evidence of apraxia 
or
neglect.
  
-Cranial Nerves: 
I: Olfaction not tested.  
II: PERRL 3 to 2.5mm and brisk.  VFF to wiggling fingers.
Funduscopic exam revealed no papilledema, exudates, or
hemorrhages. 
III, IV, VI: EOMI without nystagmus, and no fatigue/double 
vision
on sustained upgaze.  Normal saccades. 
V: Facial sensation intact to light touch. 
VII: No facial droop, facial musculature symmetric. 
VIII: Hearing intact to finger-rub bilaterally.  
IX, X: Palate elevates symmetrically.  
XI: ___ strength in trapezii and SCM bilaterally. 
XII: Tongue protrudes in midline.
 
-Motor: Normal bulk, tone throughout. No pronator drift
bilaterally. 
No adventitious movements, such as tremor, noted. No asterixis
noted.
  Delt Bic Tri WrE FFl FE IO IP Quad Ham TA ___ 
L  5    ___   ___  5   5    5  5     5     5   5 
R  5    ___   ___  5   5    5  5     5     5   5
 
-Sensory: No deficits to light touch, pinprick, cold sensation,
vibratory sense, proprioception throughout. No extinction to 
DSS.
 
-DTRs: 
  Bi Tri ___ Pat Ach 
L  2  2    2    -   1 
R  2  2    2    -   1
Plantar response was flexor bilaterally.
 
-Coordination: Mild intention tremor (which pt reports is new),
no dysdiadochokinesia noted. No dysmetria on FNF bilaterally.
 
-Gait: Good initiation. Narrow-based, normal stride and arm
swing.  Able to walk in tandem without difficulty. Romberg
absent.
 

 
Pertinent Results:
**********
Laboratory Data:

Lactate:2.1

132  96  26  
-------------< 229 
5.4  28  1.4  

5.3 >-----< 195 
     38.9  
N:93.8 L:3.3 M:2.6 E:0.1 Bas:0.2 
___ 08:45AM BLOOD ALT-105* AST-59* LD(LDH)-284* AlkPhos-93 
TotBili-1.8*
UA: Color Yellow Appear Clear SpecGr 1.009 pH 6.0 Urobil Neg 
Bili
Neg 
Leuk Neg Bld Neg Nitr Neg Prot Tr Glu 300 Ket Neg RBC 0 WBC <1 
Bact Few Yeast None Epi 0 
Urine legionella negative

CSF
CSF gram stain negative
CSF crypto negative
___ 03:00PM CEREBROSPINAL FLUID (CSF) WBC-1 RBC-178* 
Polys-22 ___ Mesothe-6
___ 03:00PM CEREBROSPINAL FLUID (CSF) TotProt-60* 
Glucose-75
___ 03:00PM CEREBROSPINAL FLUID (CSF) WBC-2 RBC-1040* 
Polys-30 ___ Monos-46

Radiologic Data: 
Non-Contrast CT of Head: No acute issues
OSH CT ___: No evidence of infection/mass/abscess

STILL PENDING:
Serum lyme serology
Blood fungal AFB/fungal 
CSF fungal AFB culture
CSF VZV, HSV and Lyme
Anaplasma IgM/IgG fror Ehrlichia
Urine Histoplasmosis

 
Brief Hospital Course:
Mr. ___ is a ___ year-old man with past medical history of 
hypothyroidism as well as recent diagnosis of myasthenia ___ 
(currently followed by Dr. ___ and on prednisone 60 and 
imuran 100mg BID) who presents for recurrent fevers of unknown 
origin. He is without respiratory symptoms or weakness and his 
neurological exam is nonfocal. He is admitted for further workup 
of the source of his fever.

PLAN:
- LP with fluoroscopy showed only 1 WBC, no signs of infection 
and empiric coverage with acyclovir that was started in the 
Emergency Room was discontinued
- OSH records from Dr. ___ reviewed:  tick-borne workup 
from earlier this week showed Anaplasmosis, Lyme, Erlichia all 
negative
- per ID recs: we resent urine histoplasma,serum/CSF crypto 
antigen, Lyme, Anaplasma, Erlichia, mycolytic Bcx. These can be 
followed up as outpatient
- f/u CSF studies- Herpes Simplex Virus PCR; Acid Fast (TB) 
Culture; Cryptococcal Antigen; Fungal culture; Viral culture - 
routine; Borrelia burgdorferi Antibody Index for CNS Infection; 
Varicella-Zoster Virus DNA, PCR are pending, but given his lack 
of symptoms and the low likelihood of disseminated neurologic 
infection we did not feel it was necessary to keep the patient 
inpatient while results pend. The studies can be followed up as 
outpatient at his next clinic appointment.  We can fax records 
to his ID physician once an appointment is made.
- NIFs and vital capacity remained normal
-Myasthenia medications: continue home doses of prednisone, 
mestinon and imuran. He will be seen in clinic next month by Dr. 
___

 
___ on Admission:
The Preadmission Medication list is accurate and complete.
1. Azathioprine 100 mg PO BID 
2. Levothyroxine Sodium 75 mcg PO DAILY 
3. PredniSONE 60 mg PO DAILY 
4. Pyridostigmine Bromide 30 mg PO Q8H 
5. Multivitamins 1 TAB PO DAILY 
6. Omeprazole 20 mg PO DAILY 

 
Discharge Medications:
1. Azathioprine 100 mg PO BID 
2. Levothyroxine Sodium 75 mcg PO DAILY 
3. Omeprazole 20 mg PO DAILY 
4. PredniSONE 60 mg PO DAILY 
5. Pyridostigmine Bromide 30 mg PO TID AS DIRECTED 
6. Vitamin D 1000 UNIT PO DAILY 
7. Calcium Acetate 667 mg PO BID 
8. Multivitamins 1 TAB PO DAILY 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
fever of unknown origin

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr ___, 

It was a pleasure to take care of you at ___ 
___.  You were admitted on ___ with low grade fevers at 
home to 99.7.  While you were here we gave you an antiviral 
medication call acyclovir while we sent for numerous infectious 
studies that all came back negative.  We also sent you for a 
lumbar puncture which showed no evidence of infection.  We 
consulted our Infectious Disease team who recommended additional 
studies that can be followed up as an outpatient the next time 
you see Dr. ___.  The Infectious Disease team did not 
feel it was necessary to continue antibiotics or antivirals but 
they did want you to follow up with your previous outpatient 
Infectious Disease doctor as an outpatient. Please remain on all 
your home medications and follow up as listed. Thank you for 
allowing us to participate in your care. 
 
Followup Instructions:
___